US08349886B2
[2-(5-{1-[1-methyl-5-(methylsulfanyl)-1H-pyrazol-3-yl]-2-(tetrahydro-2H-pyran-4-yl)ethyl}-1H-pyrrol-2-yl)-1,3-thiazol-5-yl]methanol
A mixture of 5-[1-methyl-5-(methylsulfanyl)-1H-pyrazol-3-yl]-6-(tetrahydro-2H-pyran-4-yl)-1-{5-[(tetrahydro-2H-pyran-2-yloxy)methyl]-1,3-thiazol-2-yl}hexane-1,4-dione (0.65 g), ammonium acetate (0.46 g) and acetic acid (6 mL) was stirred at 100° C. for 1 hr. The reaction mixture was neutralized with 8N aqueous sodium hydroxide solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was subjected to basic silica gel column chromatography to give the title compound (0.40 g, yield 80%) as a yellow amorphous solid from the fraction eluted with tetrahydrofuran-hexane (3:1, volume ratio). MS: 419 (MH+).

reactant | 5-[1-methyl-5-(methylsulfanyl)-1H-pyrazol-3-yl]-6-(tetrahydro-2H-pyran-4-yl)-1-{5-[(tetrahydro-2H-pyran-2-yloxy)methyl]-1,3-thiazol-2-yl}hexane-1,4-dione | 0.65 g | CN1N=C(C=C1SC)C(C(CCC(=O)C=1SC(=CN1)COC1OCCCC1)=O)CC1CCOCC1 | C25H35N3O5S2
reactant | ammonium acetate | 0.46 g | C(C)(=O)[O-].[NH4+]
reactant | sodium hydroxide | 8N | [OH-].[Na+]
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | [2-(5-{1-[1-methyl-5-(methylsulfanyl)-1H-pyrazol-3-yl]-2-(tetrahydro-2H-pyran-4-yl)ethyl}-1H-pyrrol-2-yl)-1,3-thiazol-5-yl]methanol | 0.40 g, yield 80% | CN1N=C(C=C1SC)C(CC1CCOCC1)C1=CC=C(N1)C=1SC(=CN1)CO | C20H26N4O2S2
